US06030952
i) 6-(1-bromomethylvinyl)-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene
Tetrabromomethane (1.21 g, 3.8 mmol) is added to a mixture of triphenylphosphine (970 mg, 3.8 mmol) in ethyl ether (20 ml). A solution of 2-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)prop-2-en-1-ol (300 mg, 1.2 mmol) in ethyl ether (2 ml) is added. Stirring is continued for 24 h, then the reaction mixture is treated with water and ethyl acetate. The organic phase is washed with water and then concentrated in vacuo in a rotary evaporator. The oil obtained is taken up in heptane and filtered through silica. The filtrate is concentrated in vacuo in a rotary evaporator.

reactant | Tetrabromomethane | 3.8 mmol, 1.21 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 3.8 mmol, 970 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)prop-2-en-1-ol | 1.2 mmol, 300 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(CO)=C)C | C17H24O
reactant | water | O | H2O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(1-bromomethylvinyl)-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene | BrCC(=C)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C17H23Br
